US04277621
The procedure described in Example (1b) is repeated, except that 118.7 g (0.5 mol) of 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene, 35 g (0.5 mol) of hydroxylamine hydrochloride, 55 g of 37% hydrochloric acid, 200 mlof water and 50 g (1.25 mols) of solid sodium hydroxide are used. Distillation yields 127 g (0.47 mol) of 2,2-dimethyl-11-isopropyl-11-amino-undecanal oxime; yield 94% of theory; boiling point 145° C./4 Pa; nD20 =1.4761.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene | 0.5 mol, 118.7 g | CC1(C=NC(CCCCCCCC1)C(C)C)C | C16H31N
reactant | hydroxylamine hydrochloride | 0.5 mol, 35 g | Cl.NO
reactant | hydrochloric acid | 55 g | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undecanal oxime | 0.47 mol, 127 g, yield 94% | CC(C=NO)(CCCCCCCCC(N)C(C)C)C | C16H34N2O
